US07517910B2
methyl 4-({3-tert-butyl-5-[(6-methylpyridin-2-yl)methoxy]-1H-pyrazol-1-yl}methyl)benzoate
To a mixture of methyl 4-[(3-tert-butyl-5-oxo-4,5-dihydro-1H-pyrazol-1-yl)methyl]benzoate (1.68 g, 5.83 mmol), (6-methylpyridin-2-yl)methanol (0.79 g, 6.4 mmol), tributylphosphine (2.90 mL, 11.6 mmol) and tetrahydrofuran (80 mL) was added 1,1′-(azodicarbonyl)dipiperidine (2.94 g, 11.7 mol), and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and diisopropyl ether was added to the residue. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=2:3) to give the title compound (2.14 g, yield 93%) as a yellow oil. 1H NMR (CDCl3) δ: 1.27 (9H, s), 2.54 (3H, s), 3.90 (3H, s), 5.11 (2H, s), 5.25 (2H, s), 5.47 (1H, s), 6.96 (1H, d, J=7.8 Hz), 7.06 (1H, d, J=7.8 Hz), 7.19 (2H, d, J=8.6 Hz), 7.51 (1H, t, J=7.7 Hz), 7.93-8.00 (2H, m).

reactant | methyl 4-[(3-tert-butyl-5-oxo-4,5-dihydro-1H-pyrazol-1-yl)methyl]benzoate | 5.83 mmol, 1.68 g | C(C)(C)(C)C1=NN(C(C1)=O)CC1=CC=C(C(=O)OC)C=C1 | C16H20N2O3
reactant | (6-methylpyridin-2-yl)methanol | 6.4 mmol, 0.79 g | CC1=CC=CC(=N1)CO | C7H9NO
reactant | tributylphosphine | 11.6 mmol, 2.90 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 11.7 mol, 2.94 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | methyl 4-({3-tert-butyl-5-[(6-methylpyridin-2-yl)methoxy]-1H-pyrazol-1-yl}methyl)benzoate | 2.14 g, yield 93% | C(C)(C)(C)C1=NN(C(=C1)OCC1=NC(=CC=C1)C)CC1=CC=C(C(=O)OC)C=C1 | C23H27N3O3
